US07786114B2
To a solution of 16.6 g of 1-t-butyloxycarbonyl-3-iodo-5,6-dimethoxy-1H-pyrrolo[3,2-b]pyridine in 300 cm3 of anhydrous tetrahydrofuran, under an inert atmosphere of argon at a temperature in the region of −100° C., are added dropwise 14.41 cm3 of tributyl borate followed by 41 cm3 of n-BuLi (1.6M in hexane). The reaction medium is stirred at this same temperature for 90 minutes. The cooling bath is removed. The temperature rises to −5° C. 100 g of ice are added, followed by 100 cm3 of water and 300 cm3 of ethyl acetate. After separation of the phases by settling, the organic phase is dried over sodium sulfate, filtered and then concentrated under reduced pressure. The residue obtained is purified by chromatography (SiO2, dichloromethane/methanol 98/02 by volume as eluents, argon). The fractions containing the product are concentrated under reduced pressure. 8.32 g of 1-t-butyloxycarbonyl-5,6-dimethoxy-1H-pyrrolo[3,2-b]pyridin-3-boronic acid are thus obtained with the following characteristics:

reactant | 1-t-butyloxycarbonyl-3-iodo-5,6-dimethoxy-1H-pyrrolo[3,2-b]pyridine | 16.6 g | C(C)(C)(C)OC(=O)N1C=C(C2=NC(=C(C=C21)OC)OC)I | C14H17IN2O4
reactant | tributyl borate | 14.41 cm3 | B(OCCCC)(OCCCC)OCCCC | C12H27BO3
reactant | n-BuLi | 1.6M, 41 cm3 | [Li]CCCC
solvent | tetrahydrofuran | 300 cm3 | O1CCCC1 | C4H8O
product | 1-t-butyloxycarbonyl-5,6-dimethoxy-1H-pyrrolo[3,2-b]pyridin-3-boronic acid | 8.32 g | C(C)(C)(C)OC(=O)N1C=C(C2=NC(=C(C=C21)OC)OC)B(O)O | C14H19BN2O6
